US07605176B2
Ethyl 3-biphenyl-4-yl-3-oxopropionate
14.7 g (75.0 mmol) of 4-acetylbiphenyl is dissolved in 150 mL of diethylcarbonate. Under protective gas, a total of 6.50 g (150 mmol) sodium hydride in oil (55%) is added batchwise at 0° C. The mixture is kept for 5 minutes at 0° C., then stirred for 2 hours at 80° C. After cooling, the mixture is poured onto water and extracted with methylene chloride; the organic phase is washed with water and finally dried over sodium sulfate. The solvent is eliminated, the residue is suspended in water and neutralized with 1N hydrochloric acid. The aqueous phase is extracted with diethyl ether, the organic phase is dried over sodium sulfate, and finally the solvent is eliminated. Lastly the residue is recrystallized from petroleum ether and the product is dried in vacuo at 50° C. Yield: 15.3 g (76% of theory); Rf value: 0.60 (silica gel, petroleum ether/ethyl acetate=5:2); m.p. 75° C.-77° C.; C17H16O3; EII mass spectrum: m/z=269 [M+H]+.

reactant | 4-acetylbiphenyl | 75.0 mmol, 14.7 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12O
reactant | sodium hydride | 150 mmol, 6.50 g | [H-].[Na+]
reactant | diethylcarbonate | 150 mL | C(C)OC(OCC)=O | C5H10O3
product | Ethyl 3-biphenyl-4-yl-3-oxopropionate | C1(=CC=C(C=C1)C(CC(=O)OCC)=O)C1=CC=CC=C1 | C17H16O3
